US07183270B2
3-(Trifluoromethyl)phenethyl alcohol (10.0 g, 52.6 mmol), triphenylphosphine (17.9 g, 68.4 mmol), and imidazole (5.00 g, 73.6 mmol) were dissolved in acetonitrile (42 mL) and ether (70 mL), then the mixture was cooled to 0° C. Iodine (18.7 g, 73.6 mmol) was added in portions, then the mixture was stirred for 4 h. The reaction mixture was diluted with ether (1 L), washed with saturated Na2S2O3 (3×300 mL), aqueous CuSO4 (2×300 mL), and brine (2×300 mL), dried over Na2SO4, filtered, and concentrated to a volume of 200 mL. The precipitate of triphenylphosphineoxide was removed by filtration and the filtrate was triturated with ether/hexanes (2:1, 300 mL). Additional triphenylphosphine-oxide was removed by filtration, and the filtrate was concentrated to dryness to provide 1-(2-iodoethyl)-3-trifluoromethylbenzene as a yellow oil (16.5 g, quantitative): 1H NMR (300 MHz, CDCl3) δ 7.54–7.35 (m, 4H), 3.37 (t, J=8.3 Hz, 2H), 3.24 (t, J=8.3 Hz, 2H); 19F NMR (282 MHz, CDCl3) δ −63.1.

reactant | 3-(Trifluoromethyl)phenethyl alcohol | 52.6 mmol, 10.0 g | FC(C=1C=C(CCO)C=CC1)(F)F | C9H9F3O
reactant | triphenylphosphine | 68.4 mmol, 17.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 73.6 mmol, 5.00 g | N1C=NC=C1 | C3H4N2
reactant | Iodine | 73.6 mmol, 18.7 g | II | I2
solvent | acetonitrile | 42 mL | C(C)#N | C2H3N
solvent | ether | 70 mL | CCOCC | C4H10O
solvent | ether | 1 L | CCOCC | C4H10O
product | 1-(2-iodoethyl)-3-trifluoromethylbenzene | ICCC1=CC(=CC=C1)C(F)(F)F | C9H8F3I
